US04745121
A suspension of ethyl 1-ethyl-4-ethoxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (which may be prepared as described in U.S. Pat. No. 3,755,340, for example, Example 1c) (14.24 g.) and N-bromosuccinimide (21.2 g.) in carbon tetrachloride (109 ml.) was stirred and heated under reflux while being irradiated with a sun lamp (Westinghouse 250 watt). After 1.5 hours the mixture was cooled (ice-bath) and filtered. The filtrate was washed with aqueous sodium bicarbonate and water, dried (MgSO4) and evaporated to give ethyl 4-ethoxy-1-vinyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate as a yellow oil.

reactant | ethyl 1-ethyl-4-ethoxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | C(C)N1N=CC=2C1=NC=C(C2OCC)C(=O)OCC | C13H17N3O3
reactant | N-bromosuccinimide | 21.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 109 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 4-ethoxy-1-vinyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | C(C)OC1=C2C(=NC=C1C(=O)OCC)N(N=C2)C=C | C13H15N3O3
